US05952331
2-Amino-6-hydroxy-4-(naphth-1-yl)-pyrimidine (900 mg) was added to a solution of chlorosulfonic acid (0.05 mL) in 2.5 mL of phosphorus oxychloride, and the mixture was stirred at 95° C. for 6 hours. The mixture was poured onto ice, neutralized with potassium carbonate, and extracted with ethyl acetate. The crude product (70 mg) was purified by silica gel chromatography, eluting with methylene chloride, and treated with hydrochloric acid-ethanol to give 2-amino-6-chloro-4-(naphth-1-yl)-pyrimidine hydrochloride (25 mg), m.p. 248-250° C.

reactant | 2-Amino-6-hydroxy-4-(naphth-1-yl)-pyrimidine | 900 mg | NC1=NC(=CC(=N1)C1=CC=CC2=CC=CC=C12)O | C14H11N3O
reactant | chlorosulfonic acid | 0.05 mL | ClS(=O)(=O)O | ClHO3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | phosphorus oxychloride | 2.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-amino-6-chloro-4-(naphth-1-yl)-pyrimidine hydrochloride | 25 mg | Cl.NC1=NC(=CC(=N1)C1=CC=CC2=CC=CC=C12)Cl | InChI=1S/C14H10ClN3.ClH/c15-13-8-12(17-14(16)18-13)11-7-3-5-9-4-1-2-6-10(9)11;/h1-8H,(H2,16,17,18);1H
